US07037916B2
To a solution of lithium bis(trimethylsilyl)amide (1.0 M in tetrahydrofuran) was added a solution of 3-fluorobenzonitrile (2.5 g, Aldrich, USA) in 10 mL of anhydrous ether. After standing at room temperature for 2 h, the solution was cooled to 0° C. in an ice bath, and 28 mL of 3 M hydrochloric acid was added slowly. After stirring for 30 min, 100 mL of water was added and the ether layer was discarded. The aqueous layer was made basic with 2 M sodium hydroxide and extracted three times with chloroform. The chloroform layers were combined, dried over magnesium sulfate and concentrated in vacuo to yield 3-fluorobenzamidine (1.27 g) as a clear oil.

reactant | lithium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-fluorobenzonitrile | 2.5 g | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | hydrochloric acid | 3 M, 28 mL | Cl | ClH
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | water | 100 mL | O | H2O
product | 3-fluorobenzamidine | 1.27 g | FC=1C=C(C(=N)N)C=CC1 | C7H7FN2
